US09062046B2
Step 2: 2-(5-aminopyridin-2-yl)-2-methylpropanenitrile
2-methyl-2-(5-nitropyridin-2-yl)propanenitrile (15.70 mmol) was subjected to hydrogenation using Raney-Ni (0.6 g) at 40 psi for 4 h. Reaction mixture was filtered and washed with methanol. Filtrate was concentrated and purified (silica gel column, MeOH/CHCl3 as eluent) to obtain the title compound. 1H NMR (300 MHz, DMSO-d6): δ 8.11 (d, J=2.7 Hz, 1H), 7.37 (d, J=8.7 Hz, 1H), 7.03 (dd, J=2.7, 8.7 Hz, 1H), 3.36 (brs, 2H), 1.74 (s, 6H); MS m/z: 162 (M+1)+.

reactant | 2-methyl-2-(5-nitropyridin-2-yl)propanenitrile | 15.70 mmol | CC(C#N)(C)C1=NC=C(C=C1)[N+](=O)[O-] | C9H9N3O2
catalyst | Ni | 0.6 g | [Ni] | Ni
product | 2-(5-aminopyridin-2-yl)-2-methylpropanenitrile | NC=1C=CC(=NC1)C(C#N)(C)C | C9H11N3
